US06489476B1
A solution of 2-amino-4-(diethylphosphonomethyloxy)benzothiazole (1 mmole) in AcOH (6 mL) was cooled to 10° C. and treated with bromine (1.5 mmole) in AcOH (2 mL). After 5 min the mixture was stirred at room temperature for 2.5 h. The yellow precipitate was collected via filtration and washed with CH2Cl2 to give 2-amino-4-diethylphosphonomethyloxy-6-bromobenzothiazole.

reactant | 2-amino-4-(diethylphosphonomethyloxy)benzothiazole | 1 mmole | NC=1SC2=C(N1)C(=CC=C2)OCP(=O)(OCC)OCC | C12H17N2O4PS
reactant | bromine | 1.5 mmole | BrBr | Br2
solvent | AcOH | 6 mL | CC(=O)O | C2H4O2
solvent | AcOH | 2 mL | CC(=O)O | C2H4O2
product | 2-amino-4-diethylphosphonomethyloxy-6-bromobenzothiazole | NC=1SC2=C(N1)C(=CC(=C2)Br)OCP(=O)(OCC)OCC | C12H16BrN2O4PS
